US05712267
(2S,4S)-1-(t-Butoxycarbonyl)-4-(4-methoxybenzylthio)-2-pyrrolidinecarboxylic acid
A solution of 0.95 g of di-t-butyldicarbonate in 4 ml of tetrahydrofuran and 4:4 ml of a 1N aqueous solution of sodium hydroxide were simultaneously added dropwise, whilst ice-cooling, to a solution of 0.97 g of (2S,4S)-4-(4-methoxybenzylthio)-2-pyrrolidinecarboxylic acid in 18 ml of tetrahydrofuran and 3.6 ml of a 1N aqueous solution of sodium hydroxide. The mixture was then stirred at room temperature for 1 hour, after which the tetrahydrofuran was removed by evaporation under reduced pressure, and the residue was acidified to a pH value of 2-3 by the addition of 1N aqueous hydrochloric acid, and the resulting mixture was extracted with ethyl acetate. The ethyl acetate solution was washed with water and with an aqueous solution of sodium chloride, after which in was dried over anhydrous magnesium sulfate. The solvent was Then removed by distillation under reduced pressure, to give 1.33 g of the title compound.

reactant | di-t-butyldicarbonate | 0.95 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | sodium hydroxide | [OH-].[Na+]
reactant | (2S,4S)-4-(4-methoxybenzylthio)-2-pyrrolidinecarboxylic acid | 0.97 g | COC1=CC=C(CS[C@H]2C[C@H](NC2)C(=O)O)C=C1 | C13H17NO3S
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 18 ml | O1CCCC1 | C4H8O
product | (2S,4S)-1-(t-Butoxycarbonyl)-4-(4-methoxybenzylthio)-2-pyrrolidinecarboxylic acid | 1.33 g | C(C)(C)(C)OC(=O)N1[C@@H](C[C@@H](C1)SCC1=CC=C(C=C1)OC)C(=O)O | C18H25NO5S
